### ISSUE TITLE
Proof automation: `verity_spec` tactic for spec satisfaction discharge

### ISSUE THREAD

**Issue by Th0rgal** [Th0rgal/verity#1154]
## Why

Every `*_meets_spec` theorem across all contracts follows the identical pattern:

```lean
theorem increment_meets_spec_when_owner ... := by
  rw [increment_unfold s h_owner]
  simp [increment_spec, ContractResult.snd, Specs.sameAddrMapContext, ...]
  intro slotIdx h_neq
  simp [h_neq]
```

The structure is always: unfold → refine conjuncts → simp each one. This accounts for the bulk of every `Correctness.lean` file.

## Solution

Create a `verity_spec` tactic:

```lean
-- Instead of 5-10 lines:
verity_spec increment_spec using increment_unfold [h_owner]
```

The tactic should:
1. Apply the unfold lemma with provided hypotheses
2. Unfold the spec definition
3. Use `refine ⟨?_, ?_, ...⟩` to split conjuncts
4. Dispatch each conjunct with `simp` + frame lemmas
5. Handle the common `intro x h_neq; simp [h_neq]` sub-pattern for "unchanged except" clauses

## Impact
- Standardizes all `*_meets_spec` proofs across every contract
- Makes correctness proofs 1-2 lines instead of 5-10
- Makes the proof pattern predictable and LLM-reproducible

## Effort
1 week

## Acceptance
- `verity_spec` tactic defined and working
- At least 3 contracts migrated as proof of concept (Counter, SimpleStorage, OwnedCounter)
- No regressions
